US05347039
1.03 g of methyl 5-phenyl-5-hydroxy-3-oxo-pentanoate is dissolved in 40 cm3 methanol. The solution is cooled to -10° C. and then 1.3 cm3 of 95% titanium chloride triisopropoxide (4.5 mmol) are added. The mixture is stirred for 20 minutes at -10° C. and then 329.6 mg of 95% sodium cyanoborohydride (50 mmol) are added. The mixture is stirred for 3 hours at a temperature between -5° and 0° C. 10 cm3 of water and 1 cm3 of concentrated hydrochloric acid are then added. After evaporation of the methanol under reduced pressure, the mixture is taken up in 70 cm3 of dichloromethane. The organic phase is washed with 2 times 50 cm3 of water and then dried over sodium sulphate. After filtration and concentration under reduced pressure, the product obtained is treated twice with methanol. There is thus obtained, with a yield of 70%, 720 mg of methyl 5-phenyl-3,5-dihydroxypentanoate for which the syn/anti ratio is equal to 93/7.

reactant | methyl 5-phenyl-5-hydroxy-3-oxo-pentanoate | 1.03 g | C1(=CC=CC=C1)C(CC(CC(=O)OC)=O)O | C12H14O4
reactant | sodium cyanoborohydride | 50 mmol, 329.6 mg | C(#N)[BH3-].[Na+]
reactant | water | 10 cm3 | O | H2O
reactant | hydrochloric acid | 1 cm3 | Cl | ClH
solvent | methanol | 40 cm3 | CO | CH4O
catalyst | titanium chloride triisopropoxide | 4.5 mmol, 1.3 cm3 | CC([O-])C.CC([O-])C.CC([O-])C.[Cl-].[Ti+4]
product | methyl 5-phenyl-3,5-dihydroxypentanoate | 720 mg, yield of 70% | C1(=CC=CC=C1)C(CC(CC(=O)OC)O)O | C12H16O4
